US07932272B2
(5-(2-Cyclopropylvinyl)thiophen-2-yl)methanol
5-(2-Cyclopropylvinyl)thiophen-2-aldehyde described in Preparation Example 148 (960 mg, 5.39 mmol) was dissolved in a mixture solvent of tetrahydrofuran-ethanol (2:1) (30 mL), sodium borohydride (100 mg, 2.64 mmol) was added under stirring on an ice bath, and the solution was stirred for 30 minutes. Acetic acid (0.5 mL) and water (10 mL) were added sequentially to the reaction solution, which was then extracted with ethyl acetate (50 mL). The organic layer was washed with an aqueous solution of saturated sodium bicarbonate and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, and the title compound (930 mg, 5.19 mmol, 96.2%) was obtained as a colorless oil.

reactant | 5-(2-Cyclopropylvinyl)thiophen-2-aldehyde | C1(CC1)C=CC1=CC=C(S1)C=O | C10H10OS
reactant | sodium borohydride | 2.64 mmol, 100 mg | [BH4-].[Na+]
reactant | Acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | water | 10 mL | O | H2O
solvent | tetrahydrofuran-ethanol | 30 mL | O1C(CCC1)CCO | C6H12O2
product | (5-(2-Cyclopropylvinyl)thiophen-2-yl)methanol | 5.19 mmol, 930 mg, 96.2% | C1(CC1)C=CC1=CC=C(S1)CO | C10H12OS
